US05223536
A mixture of 17.0 grams (0.072 mole) of methyl 3-cyclopropyl-3-(4-chlorophenyl)propenoate and 4.3 grams (0.18 mole) of magnesium in 250 ml of methanol was stirred at ambient temperature for about 3.5 hours. After this time the reaction mixture was carefully diluted with aqueous 3N hydrochloric acid. The mixture was extracted with diethyl ether. The combined ether extracts were dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under vacuum, yielding 10.7 grams of methyl 3-cyclopropyl-3-(4-chlorophenyl)propanoate; b.p. 91-97° C./0.10 mm. The spectrum was consistent with the proposed structure.

reactant | methyl 3-cyclopropyl-3-(4-chlorophenyl)propenoate | 0.072 mole, 17.0 grams | C1(CC1)C(=CC(=O)OC)C1=CC=C(C=C1)Cl | C13H13ClO2
reactant | magnesium | 0.18 mole, 4.3 grams | [Mg] | Mg
solvent | methanol | 250 ml | CO | CH4O
solvent | hydrochloric acid | 3N | Cl | ClH
product | methyl 3-cyclopropyl-3-(4-chlorophenyl)propanoate | 10.7 grams | C1(CC1)C(CC(=O)OC)C1=CC=C(C=C1)Cl | C13H15ClO2
